US06548710B2
Preparation of 2-chloro-2,2′,4′-trimethylpropiophenone:
2,2′,4′-Trimethylpropiophenone (30.0 g, 0.17 mole) was dissolved in heptane (10 ml), and sulfuryl chloride (35 g, 0.26 mole) was added at once. After about 5 min gas evolution occurred. After 3 h of stirring at room temperature the reaction mixture was concentrated. The concentrate was dissolved in heptane (200 ml) and was washed with 150 ml of a 2 wt % aqueous sodium bicarbonate solution. After drying over magnesium sulfate the solvent was removed under reduced pressure. The yield of 2-chloro-2,2′,4′-trimethylpropiophenone was 35.5 g or 99%.

reactant | 2,2′,4′-Trimethylpropiophenone | 0.17 mole, 30.0 g | CC(C(=O)C1=C(C=C(C=C1)C)C)C | C12H16O
reactant | sulfuryl chloride | 0.26 mole, 35 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | heptane | 10 ml | CCCCCCC | C7H16
product | 2-chloro-2,2′,4′-trimethylpropiophenone | ClC(C(=O)C1=C(C=C(C=C1)C)C)(C)C | C12H15ClO
